US04618708
9 g of pentafluorobenzaldehyde are condensed on 7 g of diethyl malonate in accordance with the process described in Organic Synthesis vol. III, page 377. 10 g (69%) of diethyl pentafluorobenzylmalonate are obtained which is hydrogenated at ordinary pressure in the presence of palladium on charcoal into diethyl pentafluorobenzylmalonate (92%).

reactant | pentafluorobenzaldehyde | 9 g | FC1=C(C(=C(C(=C1C=O)F)F)F)F | C7HF5O
reactant | diethyl malonate | 7 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl pentafluorobenzylmalonate | 10 g, 69% | FC1=C(C(=C(C(=C1CC(C(=O)OCC)C(=O)OCC)F)F)F)F | C14H13F5O4
